US04212867
A solution of 22 g of 1-ethoxalyl-2-(4-ethoxybenzoyl)-hydrazine and 28 g of thionyl chloride in 157 ml of anhydrous 1,2-dichloroethane is heated under reflux, whilst stirring vigorously, until the evolution of gas has ceased (that is to say about 4 hours). The solvent and excess thionyl chloride are driven off in vacuo (50° C., 20 mm Hg). The residue is taken up in 150 ml of methylene chloride and the methylene chloride solution is successively washed with 2×30 ml of water, then with 30 ml of a 20% strength potassium bicarbonate solution and then with 2×30 ml of water. It is dried over anhydrous sodium sulphate. The solvent is driven off under reduced pressure (20 mm Hg, 50° C.). The solid residue is then recrystallized from isopropanol. 15.9 g of 2-ethoxycarbonyl-5-(4-ethoxyphenyl)-1,3,4-oxadiazole, which melts at 93° C., are obtained. The structure is confirmed by infrared spectrography.

reactant | 1-ethoxalyl-2-(4-ethoxybenzoyl)-hydrazine | 22 g | C(=O)(C(=O)OCC)NNC(C1=CC=C(C=C1)OCC)=O | C13H16N2O5
reactant | thionyl chloride | 28 g | S(=O)(Cl)Cl | Cl2OS
solvent | 1,2-dichloroethane | 157 ml | ClCCCl | C2H4Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 2-ethoxycarbonyl-5-(4-ethoxyphenyl)-1,3,4-oxadiazole | 15.9 g | C(C)OC(=O)C=1OC(=NN1)C1=CC=C(C=C1)OCC | C13H14N2O4
